US05753661
A mixture of 1-(2-hydroxyethyl)benzimidazolone (J. Davoll, J. Chem. Soc., 1960, 308) (9 g), 4-fluoroiodobenzene (23 g), potassium carbonate (8.0 g), cupper(I) iodide (1 g), and zinc oxide (0.5 g) in N-methyl-2(3H)-pyrrolidinone (100 ml) was kept at 155° C. for 4.5 h. After cooling water (500 ml) was added followed by extraction with ethyl acetate (3×200 ml). The organic phase was washed with water and saturated calcium chloride solution and dried over magnesium sulfate. Removal of solvent in vacuo gave an oil which was purified by chromatography (silica gel, ethyl acetate) giving 1-(4-fluorophenyl)-3-(2-hydroxyethyl)-2(3H)-benzimidazolone (2 g) as a solid, mp: 124°-26° C.

reactant | 1-(2-hydroxyethyl)benzimidazolone | 9 g | OCCN1C(NC2=C1C=CC=C2)=O | C9H10N2O2
reactant | 4-fluoroiodobenzene | 23 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodide | 1 g | [I-]
catalyst | zinc oxide | 0.5 g | [O-2].[Zn+2]
solvent | water | 500 ml | O | H2O
product | 1-(4-fluorophenyl)-3-(2-hydroxyethyl)-2(3H)-benzimidazolone | 2 g | FC1=CC=C(C=C1)N1C(N(C2=C1C=CC=C2)CCO)=O | C15H13FN2O2
